US04237278
2-Methyl-5-[2-(2-hydroxy-3-tert.-butylamino-propoxy)-styryl]-1,3,4-thiadiazole
7 g (0.025 mole) of 2-methyl-5-[2-(2,3-epoxy-propoxy)-styryl]-1,3,4-thiadiazole and 2.1 g (0.028 mole) of tert.-butylamine are reacted by the method described in Example 1. 3.8 g (44% of theory) of yellow crystals are obtained from toluene; melting point 110°-112° C.

reactant | 2-methyl-5-[2-(2,3-epoxy-propoxy)-styryl]-1,3,4-thiadiazole | 0.025 mole, 7 g | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC1CO1 | C14H14N2O2S
reactant | tert.-butylamine | 0.028 mole, 2.1 g | C(C)(C)(C)N | C4H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-5-[2-(2-hydroxy-3-tert.-butylamino-propoxy)-styryl]-1,3,4-thiadiazole | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC(CNC(C)(C)C)O | C18H25N3O2S
